US07405237B2
Cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-[1,3,4]oxadiazol-2-yl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide was prepared by reacting 3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propionic acid (400 mg, 0.9 mmol), CDI (160 mg, 1.0 mmol) and formic hydrazide (0.09 g, 1.5 mmol) in THF (5 mL). The crude was then reacted with phosphorus oxychloride (0.18 mL, 1.9 mmol) in acetonitrile (15 mL). The product was obtained as a white solid (60 mg, 15% yield): mp 181-183° C.; 1H NMR (CDCl3) δ 0.86-0.92 (m, 2H, cyclopropyl CH2), 1.06-1.11 (m, 2H, cyclopropyl CH2), 1.45 (t, J=7.5 Hz, 3H, CH3), 1.58-1.68 (m, 1H, cyclopropyl CH), 3.66 (dd, J=5, 15 Hz, 1H, CHH), 3.85 (dd, J=10, 15 Hz, 1H, CHH), 3.87 (s, 3H, CH3), 4.03-4.11 (m, 3H, OCH2CH3+CHH), 4.43 (d, J=17 Hz, 1H, CHH), 5.86-5.91 (m, 1H, NCH), 6.85-6.90 (m, 2H, Ar), 6.96-7.01 (m, 2H, Ar), 7.43 (t, J=7.5 Hz, 1H, Ar), 8.35 (s, 1H, Ar), 8.41 (d, J=7.5 Hz, 1H, Ar), 10.41 (s, 1H, NH); 13C NMR (CDCl3) δ 8.27, 8.29, 14.73, 16.16, 28.04, 46.36, 52.26, 55.98, 64.64, 111.53, 112.36, 116.80, 116.96, 117.80, 119.16, 129.54, 133.43, 138.06, 141.25, 148.84, 149.64, 153.34, 163.79, 169.50, 172.66. Analy. calculated for C25H25N4O5+0.1H2O: C, 64.47; H, 5.69; N, 12.07. Found: C, 64.50; H, 5.70; N, 11.69.

reactant | 3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propionic acid | 0.9 mmol, 400 mg | C1(CC1)C(=O)NC=1C=CC=C2CN(C(C12)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C24H26N2O6
reactant | CDI | 1.0 mmol, 160 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | formic hydrazide | 1.5 mmol, 0.09 g | C(=O)NN | CH4N2O
reactant | phosphorus oxychloride | 1.9 mmol, 0.18 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-[1,3,4]oxadiazol-2-yl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | C(C)OC=1C=C(C=CC1OC)C(CC=1OC=NN1)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C25H26N4O5
